US08633200B2
2-Hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetonitrile
To a solution of 5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde (30 mg, 0.092 mmol) in CH2Cl2 (2 mL) at 0° C. was added zinc iodide (14.63 mg, 0.046 mmol) followed by TMS-CN (0.049 mL, 0.367 mmol). The reaction mixture was stirred at room temperature for 4 h and diluted with CH2Cl2 (100 ml), washed with water, and dried over Na2SO4. The solvent was evaporated and the residue was purified by preparative HPLC to give the title compound (15 mg, 46.2%) as TFA salt. Preparative HPLC condition: Phenomenex Luna C18 30×100 mm S10, 40 to 100% B over 22 minute gradient, 7 minute hold time, A=10% methanol 90% water 0.1% TFA, B=90% methanol 10% water 0.1% TFA. Flow rate: 40 ml/min. 1H-NMR (500 MHz, CDCl3) δ ppm 2.46 (3H, s), 2.89 (3H, s), 5.39 (1H, s), 6.85 (1H, s), 7.16-7.25 (3H, m), 7.30-7.44 (4H, m), 7.63-7.76 (2H, m).

reactant | 5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde | 0.092 mmol, 30 mg | CC1=NC=2N(C(=C1C=O)C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2 | C21H17N3O
reactant | TMS-CN | 0.367 mmol, 0.049 mL | [Si](C)(C)(C)C#N | C4H9NSi
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 0.046 mmol, 14.63 mg | [I-].[Zn+2].[I-]
product | 2-Hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetonitrile | 15 mg, 46.2% | OC(C#N)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2)C | C22H18N4O
